US06972297B2
Methyl 6-aminonicotinate (10 g) in t-butanol (500 ml) was treated with di-tert-butyldicarbonate (15.8 g) and heated at 100° C. for 36 hours. The mixture was concentrated in-vacuo. Trituration with diethyl ether gave methyl 6-tert-butyloxycarbonylaminonicotinate (12.8 g). Treatment of this compound with lithium hydroxide monohydrate in a mixture of tetrahydrofuiran (150 ml) and water (150 ml) for 18 hours and evaporating to a small volume was followed by acidification with citric acid. Filtration gave the title compound as a white solid (8.99 g, 57%). M.S.(−ve ion chemical ionisation)m/z 237([M-H]−, 80%),193 (100%).

reactant | Methyl 6-aminonicotinate | 10 g | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | di-tert-butyldicarbonate | 15.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butanol | 500 ml | C(C)(C)(C)O | C4H10O
product | methyl 6-tert-butyloxycarbonylaminonicotinate | 12.8 g | C(C)(C)(C)OC(=O)NC1=NC=C(C(=O)OC)C=C1 | C12H16N2O4
